reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2][C:4]([C:3]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],4.552610534030094
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O+:2][C:3](=[C:4]=[N-:5])[H:9])([H:6])[H:7].[H:8][H:10],79.1532924519306
[N:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],31.633688551027202
[O-:1][C:2](=[C+:3][C:4]1=[C:5]=[C:6]1[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],4.824718709891805
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2][C@@:7]1([H:15])[C@@:4]2([H:13])[C:3]([H:11])([H:12])[C@:6]1([H:14])[O:5]2)([H:8])([H:9])[H:10],115.623854375603
[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[H:12]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],91.40989216925162
[O:1]=[C:2]([O:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([H:7])[H:8].[O:3]=[C:4]([C:5]#[C:6][H:10])[H:9],74.04653640482391
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[N:4][N+:5]([H:11])([H:12])[C-:6]=[C:7]1[H:13])([H:8])([H:9])[H:10],83.1605078561074
[C:1]([O:2][C:3]([O+:7]=[C:6]([N:5]([C-:4]([H:13])[H:14])[H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],27.672082056550494
[N:1](=[C:2](/[O:3][C:4]([C:5][O:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],29.942443897695497
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:4]([H:12])([H:13])[H:14])[O:6][H:18])[H:11])([H:7])([H:8])[H:9].[C:5]([H:10])([H:15])([H:16])[H:17],104.085040398259
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4]/[C:5](=[C:6](/[O:7][H:12])[H:13])[H:11])([H:9])[H:10])[H:8],60.9171200273145
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:4](=[C:3])[C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],57.6915691940483
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]([C+:2]([C@@:3]1([H:7])[C-:4]([H:9])[N:5]1[H:10])[H:6])[H:8],102.46950682356199
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([C:4]([H:11])([H:12])[H:13])([O+:6]=[C-:5][H:14])[H:10])([H:8])[H:9])[H:7],84.218280820706
[C-:1]([O+:2]=[C:3]1[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],13.770732871625398
[C:1]([C@@:2]([O:3][H:12])([C:4](/[C:5](=[C:6](\[O:7][H:16])[H:17])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],58.2351767107791
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([C:4](=[C:5]=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9],63.440708182737396
[C:1](#[C:2][H:5])[C:3]#[C:4][H:6]>>[C+:1](=[C:2]([H:5])[H:6])[C:3]#[C-:4],106.42502667033001
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3]([O:4][H:7])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],12.733565617711406
[C-:1]([N:2]([C+:3]1[N-:4][N:5]([H:12])[C+:6]([H:13])[C:7]1([H:8])[H:14])[H:11])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],3.1313836768014056
[C:1](=[N:2][C:3]([N+:4]([H:9])([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:8])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],14.95815952538819
[C:1]([O:2][C:6](=[O:7])[H:13])([H:8])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][H:12]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],51.889373743765894
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C:2][C@@:7]1([H:15])[C@:4]([C:3]([H:9])([H:10])[H:11])([O:5][H:12])[C:6]1([H:13])[H:14])[H:8],66.8047001047285
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:9])[H:10].[H:8][H:11],116.38387148191299
